US07304074B2
The suspension of 6-methyl-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carbonitrile (1.47 g, 7.93 mmol) in POCl3 (25 mL) was heated under refluxing for 2 hrs. After cooling to room temperature, the reaction mixture was quenched with ice water and basified with NH4OH followed by extraction with AcOEt. The organic layer was washed with brine and dried over NaSO4, and concentrated to give 4-chloro-6-methyl-[1,5]naphthyridine-3-carbonitrile as a brown solid (0.92 g, 57.1%). HR-MS-EI (+) m/e calcd for C10H6ClN3 (M+) 203.0250. found 203.0252.

reactant | 6-methyl-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carbonitrile | 7.93 mmol, 1.47 g | CC=1N=C2C(C(=CNC2=CC1)C#N)=O | C10H7N3O
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-methyl-[1,5]naphthyridine-3-carbonitrile | 0.92 g, 57.1% | ClC1=C(C=NC2=CC=C(N=C12)C)C#N | C10H6ClN3
